US05153210
A solution of 2-[4-acetonylphenoxymethyl]-5-hydroxy-4H-pyran-4-one (1.0 g) and 2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethylamine (0.75 g) in benzene, was heated to reflux for 3 hours under a Dean and Stark head. After cooling, the solvent was removed in vacuo, the residue dissolved in methanol, treated with sodium cyanoborohydride (0.25 g) and then stirred at ambient temperature for 18 hours. The solvent was evaporated under reduced pressure and the residue taken up in ethyl acetate and washed with water (2×50ml), brine (1×50 ml) and dried (MgSO4). After filtration and evaporation of solvent the residue was purified by column chromatography on silica using 3% methanol:chloroform as eluent to give 2-[4-[2-[(4-amino-3,5-dichloro-β-hydroxyphenethyl)amino]propyl]phenoxymethyl]-5-hydroxy-4H-pyran-4-one as a (40:60) mixture of diastereoisomers.

reactant | 2-[4-acetonylphenoxymethyl]-5-hydroxy-4H-pyran-4-one | 1.0 g | C(C(=O)C)C1=CC=C(OCC=2OC=C(C(C2)=O)O)C=C1 | C15H14O5
reactant | 2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethylamine | 0.75 g | NC1=C(C=C(C=C1Cl)C(CN)O)Cl | C8H10Cl2N2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-[4-[2-[(4-amino-3,5-dichloro-β-hydroxyphenethyl)amino]propyl]phenoxymethyl]-5-hydroxy-4H-pyran-4-one | NC1=C(C=C(C(CNC(CC2=CC=C(OCC=3OC=C(C(C3)=O)O)C=C2)C)O)C=C1Cl)Cl | C23H24Cl2N2O5
